US07265093B2
Synthesis of 2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonic acid benzylamide.
The title compound was prepared from benzyl amine following the procedure for 2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonic acid propylamide.

reactant | benzyl amine | C(C1=CC=CC=C1)N | C7H9N
reactant | 2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonic acid propylamide | C(CC)NS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O | C11H12N2O4S
product | 2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonic acid benzylamide | C(C1=CC=CC=C1)NS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O | C15H12N2O4S
